US07091215B2
After dissolving 7-(2,6-dimethoxy-4-methylphenyl)-2-ethyl-3-nitropyrazolo[1,5-a]pyridine (600 mg) in a mixture of ethanol (30 mL) and water (30 mL), acetic acid (3 mL) and zinc powder (600 mg) were added and the mixture was stirred at 60° C. for 2 hours. The ethanol of the obtained reaction mixture was distilled off under reduced pressure, and then saturated aqueous sodium hydrogencarbonate and ethyl acetate were added to the residue and extraction was performed with ethyl acetate. The obtained organic layers were combined, washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 7-(2,6-dimethoxy-4-methylphenyl)-2-ethylpyrazolo[1,5-a]pyridine-3-amine (500 mg) as a crude product.

reactant | 7-(2,6-dimethoxy-4-methylphenyl)-2-ethyl-3-nitropyrazolo[1,5-a]pyridine | 600 mg | COC1=C(C(=CC(=C1)C)OC)C1=CC=CC=2N1N=C(C2[N+](=O)[O-])CC | C18H19N3O4
reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
catalyst | zinc | 600 mg | [Zn] | Zn
product | 7-(2,6-dimethoxy-4-methylphenyl)-2-ethylpyrazolo[1,5-a]pyridine-3-amine | 500 mg | COC1=C(C(=CC(=C1)C)OC)C1=CC=CC=2N1N=C(C2N)CC | C18H21N3O2
